US08471005B2
1,4-Dimethyl-3-(3-{7-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-phenyl)-piperazin-2-one was prepared from 7-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol and 3-(3-amino-phenyl)-1,4-dimethyl-piperazin-2-one in an analogous manner to Example 1052a. Product isolated as an orange foam (82 mg, 49%). LCMS (m/e) 546 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.75 (s, 1H), 8.65 (d, 1H, J=8.2 Hz), 8.31 (s, 1H), 7.87-7.77 (m, 2H), 7.70-7.62 (m, 1H), 7.41-7.32 (m, 2H), 7.12-7.03 (m, 2H), 6.94 (s, 1H), 6.85 (d, 1H, J=4.7 Hz), 3.78-3.65 (m, 2H), 3.34-3.25 (m, 4H), 3.25-3.15 (m, 1H), 3.70-2.96 (m, 1H), 2.99 (s, 3H), 2.74-2.62 (m, 1H), 2.18 (s, 3H), 1.82-1.72 (m, 4H).

reactant | 7-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol | N1(CCCC1)S(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)O | C16H16N4O3S
reactant | 3-(3-amino-phenyl)-1,4-dimethyl-piperazin-2-one | NC=1C=C(C=CC1)C1C(N(CCN1C)C)=O | C12H17N3O
product | 1,4-Dimethyl-3-(3-{7-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-phenyl)-piperazin-2-one | CN1C(C(N(CC1)C)C1=CC(=CC=C1)NC1=NN2C(C=N1)=CC=C2C2=CC(=CC=C2)S(=O)(=O)N2CCCC2)=O | C28H31N7O3S
